US07414061B2
a) 5-Methyl-3-phenyl-4-(2-phenyl-1H-imidazol-4-yl)-isoxazole
As described for Example 57, 4-(bromoacetyl)-5-methyl-3-phenylisoxazole (commercially available) (1.0 g, 4 mmol) using benzamidine HCl instead of acetamidine HCl was converted to the title compound (992 mg, 92%) which was obtained as a white solid. MS: m/e=302.1 [M+H]+.

reactant | 4-(bromoacetyl)-5-methyl-3-phenylisoxazole | BrCC(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C12H10BrNO2
reactant | benzamidine HCl | Cl.C(C1=CC=CC=C1)(=N)N
product | 5-Methyl-3-phenyl-4-(2-phenyl-1H-imidazol-4-yl)-isoxazole | 992 mg, 92% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=C(NC1)C1=CC=CC=C1 | C19H15N3O
